US07229999B2
6-Cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxy-cyclopentylmethyl)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, hydroxymethyl-cyclopropan, 4-fluorophenylboronic acid and 1-aminomethyl-cyclopentanol hydrochloride (CAS [76066-27-8]) as starting materials to yield 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxy-cyclopentylmethyl)-nicotinamide. MS (ISP) 385.3 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | hydroxymethyl-cyclopropan | OCC1CC1 | C4H8O
reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 1-aminomethyl-cyclopentanol hydrochloride | Cl.NCC1(CCCC1)O
product | 6-cyclopropylmethoxy-5-(4-fluoro-phenyl)-N-(1-hydroxy-cyclopentylmethyl)-nicotinamide | C1(CC1)COC1=NC=C(C(=O)NCC2(CCCC2)O)C=C1C1=CC=C(C=C1)F | C22H25FN2O3
